US07951810B2
Step f: (1S,2R,4R)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-{6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-9H-purin-9-yl}cyclopentanol
A solution of (1S,2R,4R)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(6-chloro-9H-purin-9-yl)cyclopentanol (0.091 g, 0.24 mmol), triethylamine (0.1 mL, 0.72 mmol) and (S)-1-aminoindane (0.0662 g, 0.48 mmol) in ethanol (5 mL) was refluxed at 95° C. for 14 h and then concentrated under reduced pressure. The residue was purified by flash chromatography (0 to 60% EtOAc/DCM) to afford the title compound (0.09 g, 80%).

reactant | (1S,2R,4R)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(6-chloro-9H-purin-9-yl)cyclopentanol | 0.24 mmol, 0.091 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H](C[C@@H](C1)N1C2=NC=NC(=C2N=C1)Cl)O | C17H27ClN4O2Si
reactant | triethylamine | 0.72 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-1-aminoindane | 0.48 mmol, 0.0662 g | N[C@H]1CCC2=CC=CC=C12 | C9H11N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (1S,2R,4R)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-{6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-9H-purin-9-yl}cyclopentanol | 0.09 g, 80% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H](C[C@@H](C1)N1C2=NC=NC(=C2N=C1)N[C@H]1CCC2=CC=CC=C12)O | C26H37N5O2Si
